US04638075
N'-Cyano-N-(2,5-dichlorophenylsulfonyl)-S-methylisothiourea
A solution of 10.6 g (43.2 mmol) of 2,5-dichloro-benzenesulfonamide, 7.15 g (44.0 mmol) of 90 percent dimethyl N-cyanodithioiminocarbonate and 1.8 g (44 mmol) of NaOH in 60 ml of ethanol and 10 ml of H2O was heated at reflux for 6 hours. After cooling to room temperature the reaction mixture was poured into 600 ml of ice water. The resulting solution was acidified with 6N HCl to separate 2.2 g of the desired product as a white solid. Concentration of the filtrate gave an additional 8.5 g of the desired product. The total yield of material was 10.7 g (76 percent) of white solid, mp 145° C. IR and 1H NMR spectra were consistent with the assigned structure.

reactant | 2,5-dichloro-benzenesulfonamide | 43.2 mmol, 10.6 g | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)N | C6H5Cl2NO2S
reactant | dimethyl N-cyanodithioiminocarbonate | 44.0 mmol, 7.15 g | CSC(=NC#N)SC | C4H6N2S2
reactant | NaOH | 44 mmol, 1.8 g | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | H2O | 10 ml | O | H2O
product | N'-Cyano-N-(2,5-dichlorophenylsulfonyl)-S-methylisothiourea | 8.5 g | C(#N)N=C(NS(=O)(=O)C1=C(C=CC(=C1)Cl)Cl)SC | C9H7Cl2N3O2S2
